US07470679B2
((S)-4-Bromo-9-cyclopropylmethyl-8-oxo-3,6,7,8,9,10-hexahydro-2,3,9-triaza-cyclohepta[e]inden-7-yl)-acetic acid methyl ester
(S)-dimethyl 2-((7-bromo-4-(chloromethyl)-1H-indazol-5-yl)methyl)succinate (630 mg, 1.6 mmol) was dissolved in acetonitrile (5 mL). Potassium carbonate (560 mg, 4.1 mmol) was added to the mixture followed by (aminomethyl)cyclopropane (700 μL, 8.1 mmol). Mixture was heated to reflux and held with stirring for 1.5 hours. Mixture was cooled to room temperature. Mixture was filtered. Filtrate was concentrated by roto-vap. Residue was dissolved in a mixture of toluene (10 mL) and acetic acid (1 mL). Mixture was heated to reflux and held with stirring for 18 hours. Mixture was concentrated by roto-vap. Silica gel chromatography (ethyl acetate-hexanes) afforded the title compound as tan solid in 64% yield. MS m/e (M+H)+=406.0, 408.0.

reactant | (S)-dimethyl 2-((7-bromo-4-(chloromethyl)-1H-indazol-5-yl)methyl)succinate | 1.6 mmol, 630 mg | BrC=1C=C(C(=C2C=NNC12)CCl)C[C@H](C(=O)OC)CC(=O)OC | C15H16BrClN2O4
reactant | Potassium carbonate | 4.1 mmol, 560 mg | C([O-])([O-])=O.[K+].[K+]
reactant | (aminomethyl)cyclopropane | 8.1 mmol, 700 μL | NCC1CC1 | C4H9N
solvent | acetonitrile | 5 mL | C(C)#N | C2H3N
product | ((S)-4-Bromo-9-cyclopropylmethyl-8-oxo-3,6,7,8,9,10-hexahydro-2,3,9-triaza-cyclohepta[e]inden-7-yl)-acetic acid methyl ester | 64% yield | COC(C[C@@H]1CC2=C(C=3C=NNC3C(=C2)Br)CN(C1=O)CC1CC1)=O | C18H20BrN3O3
